US08633200B2
A solution of (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.01 g, 0.021 mmol) and 1M NaOH (0.209 ml, 0.209 mmol) in MeOH (3 mL) was heated at reflux for h. Then, cooled, neutralized with 1M HCl (1 mL), concentrated and the residue was taken up in Et2O (25 mL), washed with water (5 mL), brine (5 mL), dried (MgSO4), filtered and concentrated to give (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (0.0082 g, 0.017 mmol, 80% yield) as pale yellow solid. 1H NMR (500 MHz, CDCl3) δ: 7.85 (s, 1H), 7.76-7.72 (m, 1H), 7.69 (t, J=6.1 Hz, 2H), 7.42 (dd, J=14.3, 8.2 Hz, 2H), 7.32-7.28 (m, 2H), 6.91 (s, 1H), 5.28 (s, 1H), 2.68 (s, 3H), 2.51 (s, 3H), 1.01 (s, 9H). LCMS (M+H) calcd for C26H22ClN3O3: 464.17. found: 464.3.

reactant | (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.021 mmol, 0.01 g | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C27H28ClN3O3
reactant | NaOH | 0.209 mmol, 1M, 0.209 ml | [OH-].[Na+]
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.017 mmol, 0.0082 g, 80% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C26H26ClN3O3
